US04168379
44 g (150 millimoles) of 2,4-dibenzyl-5-ethoxyoxazole and 210 g (3 moles) of 2,5-dihydrofuran are heated for 8 hours at 180° C. Excess 2,5-dihydrofuran is distilled off and the residue is digested in ether. The undissolved constituent is recrystallized from ethanol. 17.6 g of 4,6-dibenzyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol are obtained, melting point 204°-205° C.

reactant | 2,4-dibenzyl-5-ethoxyoxazole | 150 millimoles, 44 g | C(C1=CC=CC=C1)C=1OC(=C(N1)CC1=CC=CC=C1)OCC | C19H19NO2
reactant | 2,5-dihydrofuran | 3 moles, 210 g | O1CC=CC1 | C4H6O
product | 4,6-dibenzyl-1,3-dihydro-furo[3,4-c]pyridin-7-ol | 17.6 g | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)CC2=CC=CC=C2 | C21H19NO2
